US04983630
Tetradecyl 2-(2,2-difluorocyclopropyl)acetate
A solution of 2.08 g (9.7 mmol) 1-tetradecanol in 20 ml tetrahydrofuran (THF) was treated with 200 mg 4-dimethylaminopyridine (DMAP) and 1.35 ml (9.7 mmol) triethylamine and cooled to 0° C. A solution of 1.5 g (9.7 mmol) 2-(2,2-difluorocyclopropyl)acetyl chloride in 10 ml tetrahydrofuran at 0°-5° C. was added dropwise. The mixture was then stirred for 2 hours at room temperature. The precipitated triethylamine hydrochloride was separated, the solution concentrated under reduced pressure, and the residue dissolved in 50 ml diethyl ether. After washing with in turn 10 ml water, 10% caustic soda and water until neutral, the ether solution was dried over magnesium sulphate and evaporated in vacuo (200 mbar). The residue was distilled under an oil pump vacuum.

reactant | 1-tetradecanol | 9.7 mmol, 2.08 g | C(CCCCCCCCCCCCC)O | C14H30O
reactant | triethylamine | 9.7 mmol, 1.35 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(2,2-difluorocyclopropyl)acetyl chloride | 9.7 mmol, 1.5 g | FC1(C(C1)CC(=O)Cl)F | C5H5ClF2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Tetradecyl 2-(2,2-difluorocyclopropyl)acetate | FC1(C(C1)CC(=O)OCCCCCCCCCCCCCC)F | C19H34F2O2
